US08053440B2
2-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)-6,7-dimethoxyquinazolin-4(3H)-one was synthesized from 2-amino-4,5-dimethoxybenzamide and 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)-6,7-dimethoxy-quinazolin-4(3H)-one (180 mg, 69%) was isolated as a light yellow solid. Selected data: MS (m/z): 341.03; MP 316.4-318.2° C.

reactant | 2-amino-4,5-dimethoxybenzamide | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)-6,7-dimethoxy-quinazolin-4(3H)-one | 180 mg, 69% | O1C2=C(OCC1)C=C(C=C2)C2=NC1=CC(=C(C=C1C(N2)=O)OC)OC | C18H16N2O5
